US08703810B2
Step 4: (S)-2-(4-Methyl-1H-imidazol-1-yl)propan-1-ol
To a solution (S)-1-(1-((tert-butyldimethylsilyl)oxy)propan-2-yl)-4-methyl-1H-imidazole (0.425 g, 1.67 mmol) in DCM (5 mL) was added 3M HCl in ether (10 mL) at room temperature. The resulting mixture was stirred at room temperature overnight. The mixture was concentrated under vacuum. The residue was dissolved in MeOH, and solid NaHCO3 was added. The mixture was stirred at room temperature for 1 h. The solid was filtered and washed with MeOH. The combined organic layers were concentrated to afford the title compound (0.212 g). 1H NMR (CDCl3): δ 7.33 (s, 1H), 6.63 (s, 1H), 4.18-4.12 (m, 1H), 3.78-3.47 (m, 2H), 2.10 (s, 3H), 1.42 (d, 3H); LCMS: 141 (M+H)+.

reactant | (S)-1-(1-((tert-butyldimethylsilyl)oxy)propan-2-yl)-4-methyl-1H-imidazole | 1.67 mmol, 0.425 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)N1C=NC(=C1)C | C13H26N2OSi
reactant | HCl | 3M | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 10 mL | CCOCC | C4H10O
product | (S)-2-(4-Methyl-1H-imidazol-1-yl)propan-1-ol | 0.212 g | CC=1N=CN(C1)[C@H](CO)C | C7H12N2O
